CIRCUIT
.options savecurrents

.param Rin_val = 30
.param Ci_val = 0.01m
.param R1_val = 80k
.param R2_val = 25k
.param Rc_val = 1k
.param Re_val = 300
.param Cb_val = 0.01m
.param Rout_val = 100
.param Co_val = 1u
.param RL_val = 8

.csparam Rin_val = {Rin_val}
.csparam Ci_val = {Ci_val}
.csparam R1_val = {R1_val}
.csparam R2_val = {R2_val}
.csparam Rc_val = {Rc_val}
.csparam Re_val = {Re_val}
.csparam Cb_val = {Cb_val}
.csparam Rout_val = {Rout_val}
.csparam Co_val = {Co_val}
.csparam RL_val = {RL_val}

* PHILIPS BJT'S
.MODEL BC557A PNP(IS=2.059E-14 ISE=2.971f ISC=1.339E-14 XTI=3 BF=227.3 BR=7.69 IKF=0.08719 IKR=0.07646 XTB=1.5 VAF=37.2 VAR=11.42 VJE=0.5912 VJC=0.1 RE=0.688 RC=0.6437 RB=1 RBM=1 IRB=1E-06 CJE=1.4E-11 CJC=1.113E-11 XCJC=0.6288 FC=0.7947 NF=1.003 NR=1.007 NE=1.316 NC=1.15 MJE=0.3572 MJC=0.3414 TF=7.046E-10 TR=1m2 ITF=0.1947 VTF=5.367 XTF=4.217 EG=1.11)
.MODEL BC547A NPN(IS=1.533E-14 ISE=7.932E-16 ISC=8.305E-14 XTI=3 BF=178.7 BR=8.628 IKF=0.1216 IKR=0.1121 XTB=1.5 VAF=69.7 VAR=44.7 VJE=0.4209 VJC=0.2 RE=0.6395 RC=0.6508 RB=1 RBM=1 IRB=1E-06 CJE=1.61E-11 CJC=4.388p XCJC=0.6193 FC=0.7762 NF=1.002 NR=1.004 NE=1.436 NC=1.207 MJE=0.3071 MJC=0.2793 TF=4.995E-10 TR=1m2 ITF=0.7021 VTF=3.523 XTF=139 EG=1.11)

Vcc vcc 0 12.0
Vin in 0 0 ac 1.0 sin(0 10m 1k)
Rin in in2 {Rin_val}

* input coupling capacitor
Ci in2 base {Ci_val}

* bias circuit
R1 vcc base {R1_val}
R2 base 0 {R2_val}

* gain stage
Q1 coll base emit BC547A
Rc vcc coll {Rc_val}
Re emit 0 {Re_val}

* bypass capacitor
Cb emit 0 {Cb_val}


* output stage
Q2 0 coll emit2 BC557A
Rout emit2 vcc {Rout_val}

* output coupling capacitor
Co emit2 out {Co_val}

* load
RL out 0 {RL_val}

.op
.end



.control

*makes plots in color
set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

op
echo "FAR_TAB"
print 'v(coll) - v(emit)'
print 'v(base) - v(emit)'
print 'v(emit2)'
print 'v(emit2) - v(coll)'
echo "FAR_END"

* time analysis
tran 1e-5 1e-2


hardcopy vin-vout.ps v(in) v(out)
echo "vin-vout_FIG"

* frequency analysis
ac dec 10 10 100MEG

hardcopy vdbcoll.ps vdb(coll)

echo "vdbcoll_FIG"
hardcopy vdbout.ps vdb(out) vecmax(vdb(out))-3;
echo "vdbout_FIG"

let bond = vecmax(vdb(out))-3;

meas ac lowf WHEN vdb(out)=bond CROSS=1;
meas ac highf WHEN vdb(out)=bond CROSS=LAST;

let Bandwidth = 'highf-lowf';
let Amplitude = abs(vecmax(v(out)));
let AmplitudedB = abs(vecmax(vdb(out)));
let LowerCutOffF = lowf;
let HigherCutOffF = highf;

echo "SIM_RESULTS_TAB"
print LowerCutOffF;
print HigherCutOffF;
print Bandwidth;
print AmplitudedB;
print Amplitude;
echo "SIM_RESULTS_END"


let Zi = abs(v(in2)[40]/vin#branch[40])
echo "ZI_TAB"
print Zi
echo "ZI_END"

let resist = '(Rin_val + R1_val + R2_val + Rc_val + Re_val + Rout_val + RL_val)/1000'
let capacit = '(Ci_val + Cb_val + Co_val)*1000000'
let transist = '2*0.1'
let Cost = resist + capacit + transist
let Merit = '(Amplitude * Bandwidth)/(Cost * LowerCutOffF)'

echo "MERIT_TAB"
print Cost;
print Merit;
echo "MERIT_END"

*need a different setup to measure output impedance

.endc